US07964615B2
Ethyl (3-methylphenyl)(oxo)acetate
A suspension of selenium dioxide (6.82 g, 61.4 mmol) in ethanol (60 mL) was refluxed for 10 minutes and then, 2-bromo-1-m-tolylethanone (13.1 g, 61.4 mmol) was added. The mixture was refluxed overnight. The cooled reaction was filtered through Celite and the solvent removed under reduced pressure. The residue was diluted with methylene chloride (50 mL), washed with water (2×25 mL), dried (Na2SO4), and concentrated. Purification by column chromatography with silica gel using methylene chloride as eluent gave the title compound (9.6 g, 81%) as oil.

reactant | selenium dioxide | 61.4 mmol, 6.82 g | [Se](=O)=O | O2Se
reactant | 2-bromo-1-m-tolylethanone | 61.4 mmol, 13.1 g | BrCC(=O)C=1C=C(C=CC1)C | C9H9BrO
reactant | ethanol | 60 mL | C(C)O | C2H6O
product | Ethyl (3-methylphenyl)(oxo)acetate | 9.6 g, 81% | CC=1C=C(C=CC1)C(C(=O)OCC)=O | C11H12O3
